US08138333B2
1-(Phenylsulfonyl)-3,4-dihydropyrrolo[4,3,2-de]isoquinolin-5(1H)-one
Benzenesulfonyl chloride (140 mg, 0.79 mmol), NBu4HSO4 (24 mg, 0.07 mmol) and 4M aq. NaOH (2 mL) were, in that order, added to 3,4-Dihydropyrrolo[4,3,2-de]isoquinolin-5(1H)-one, Intermediate 1 (124 mg, 0.72 mmol) in DCM (10 mL). The reaction was stirred at room temperature for 2 h and then extracted with water and DCM (×2). The product seems to be only partially soluble in DCM and some solid material in the water layer was filtered off and added to the DCM layer, which was concentrated and dried to give 227 mg of the title compound, as a light brown solid. MS m/z 313 [M+H]+.

reactant | Benzenesulfonyl chloride | 0.79 mmol, 140 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaOH | 4M, 2 mL | [OH-].[Na+]
reactant | 3,4-Dihydropyrrolo[4,3,2-de]isoquinolin-5(1H)-one | N1C=C2CNC(C=3C=CC=C1C23)=O | C10H8N2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(Phenylsulfonyl)-3,4-dihydropyrrolo[4,3,2-de]isoquinolin-5(1H)-one | 227 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C2CNC(C=3C=CC=C1C23)=O | C16H12N2O3S
